US04663453
1-(4-Bromo-2-nitrophenyl)-1,2,3,4-tetrahydroquinoline
A stirred mixture, under nitrogen, of 2,5-dibromonitrobenzene (140.5 g, 0.50 mole), 1,2,3,4-tetrahydroquinoline (133.2 g, 1.00 mole) and symmetrical collidine (121.2 g, 1.00 mole) in 1,2,3-trimethylbenzene (500 ml) as solvent was heated at 160°-165° C. for 7 days. The mixture was cooled to room temperature, filtered, and the filtrate was concentrated in vacuo (100° C.). The residue was taken up in dichloromethane (1.5 l) and the solution was extracted three times with dilute hydrochloric acid, once with dilute sodium hydroxide solution, three times with water, dried over anhydrous sodium sulfate and concentrated. This residue was dissolved in 1:1 hexane:toluene (250 ml) and adsorbed on a chromatography column containing 3 kg of silica gel. Elution with 1:1 hexane:toluene gave 30 g (18%) of product, as an oil. A portion of the oil was Kugelrohr distilled at an oven-temperature of 163°-165° C. (0.1 mm Hg) to provide the analytical sample.

reactant | 2,5-dibromonitrobenzene | 0.50 mole, 140.5 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | 1,2,3,4-tetrahydroquinoline | 1.00 mole, 133.2 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | collidine | 1.00 mole, 121.2 g | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | 1,2,3-trimethylbenzene | 500 ml | CC1=C(C(=CC=C1)C)C | C9H12
product | 1-(4-Bromo-2-nitrophenyl)-1,2,3,4-tetrahydroquinoline | 30 g, 18% | BrC1=CC(=C(C=C1)N1CCCC2=CC=CC=C12)[N+](=O)[O-] | C15H13BrN2O2
